US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 4-methoxybenzylamine were reacted to yield N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-methoxybenzyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.81 (d, 1H, J=2.7 Hz), 7.27 (m, 3H), 6.86 (m, 3H), 6.52 (s, 1H). 5.14 (s, 1H), 4.46 (d, 2H, J=5.4 Hz), 4.24 (s, 4H), 3.78 (s, 3H); LCMS: ret. time: 23.06 min.; purity: 94%; MS (m/e): 383 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-methoxybenzyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NCC1=CC=C(C=C1)OC | C20H19FN4O3
